US05430153
3-Acetyl-8-chloro-4-(p-chlorobenzylamino)-5-nitro-2-quinolinone (308)
3-Acetyl-8-chloro-4-methylsulfoxy-5-nitro-2-quinolinone (3.28g, 0.01 mol ) and p-chlorobenzylamine (1.42g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (2.32g, yield: 57%).

reactant | 3-Acetyl-8-chloro-4-methylsulfoxy-5-nitro-2-quinolinone | 0.01 mol, 3.28g | C(C)(=O)C=1C(NC2=C(C=C(C(=C2C1C)[N+](=O)[O-])OS(=O)(=O)O)Cl)=O | C12H9ClN2O8S
reactant | p-chlorobenzylamine | 0.01 mol, 1.42g | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 3-Acetyl-8-chloro-4-(p-chlorobenzylamino)-5-nitro-2-quinolinone | 2.32g, yield: 57% | C(C)(=O)C=1C(NC2=C(C=CC(=C2C1NCC1=CC=C(C=C1)Cl)[N+](=O)[O-])Cl)=O | C18H13Cl2N3O4
